US07288661B2
Step A: Benzyl (2S,3aS,7aS)-1-{(2S)-2-[(tert-butyloxycarbonyl)-amino]-propionyl}-octahydro-1H-indole-2-carboxylate:
200 g of (2S,3aS,7aS)-octahydroindole-2-carboxylic acid benzyl ester para-toluene-sulphonate, 65 ml of triethylamine and 1 litre of ethyl acetate are introduced into a stirred reactor, followed, after stirring for 10 minutes at ambient temperature, by 87 g of N-[tert-butyloxycarbonyl]-(S)-alanine and 175 g of O-(benzotriazol-1-yl)-1,1,3,3-bis(tetra-methylene)uronium hexafluorophosphate. The heterogeneous mixture is then heated at 30° C. for 3 hours whilst stirring well and is then cooled to 0° C. and filtered.

reactant | (2S,3aS,7aS)-octahydroindole-2-carboxylic acid benzyl ester para-toluene-sulphonate | 200 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(=O)[C@H]1N[C@H]2CCCC[C@H]2C1
reactant | triethylamine | 65 ml | C(C)N(CC)CC | C6H15N
reactant | N-[tert-butyloxycarbonyl]-(S)-alanine | 87 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
solvent | ethyl acetate | 1 litre | C(C)(=O)OCC | C4H8O2
product | Benzyl (2S,3aS,7aS)-1-{(2S)-2-[(tert-butyloxycarbonyl)-amino]-propionyl}-octahydro-1H-indole-2-carboxylate | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@@H]2CCCC[C@H]12)C(=O)OCC1=CC=CC=C1)C | C24H34N2O5
